US08604023B2
di-tert-Butyl-6-bromo-2-oxo-1H-imidazo[4,5-b]pyridine-1,3(2H)-dicarboxylate
A THF (10 mL) solution of di-tert butyl dicarbonate (4.69 g, 2.2 eq) was added dropwise to a solution of 6-bromo-1H-imidazo[4,5-b]pyridin-2(3H)-one (2.09 g) and DMAP (119 mg, 0.1 eq) in THF (40 mL). The reaction was stirred at reflux for 1 h, then cooled and concentrated. The product was purified by chromatography (gradient: 95:5 hexanes:EtOAc to 80:20 hexanes:EtOAc) delivering the product (1.48 g, 37% yield). 1H-NMR (300 MHZ, CDCl3) δ 8.32 (s, 1H), 8.24 (s, 1H), 1.65 (s, 20H).

reactant | di-tert butyl dicarbonate | 4.69 g, 2.2 eq | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 6-bromo-1H-imidazo[4,5-b]pyridin-2(3H)-one | 2.09 g | BrC=1C=C2C(=NC1)NC(N2)=O | C6H4BrN3O
catalyst | DMAP | 119 mg, 0.1 eq | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | di-tert-Butyl-6-bromo-2-oxo-1H-imidazo[4,5-b]pyridine-1,3(2H)-dicarboxylate | 1.48 g, 37% yield | C(C)(C)(C)OC(=O)N1C(N(C2=NC=C(C=C21)Br)C(=O)OC(C)(C)C)=O | C16H20BrN3O5
